US06864265B2
Preparation of 5-tert-Butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 5-tert-butyl-1H-imidazole (423 mg, 3.41 mmol), NaH (60%, 132 mg, 3.31 mmol), and SEMCl (639 uL, 3.61 mmol) followed by column chromatography on silica gel (hexane/EtOAC 3:2) gave the title compound (500 mg, 57%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ major isomer: 0.00 (s, 9H), 0.89 (t, 2H, J=7.5 Hz), 1.29 (s, 9H), 3.47 (t, 2H, J=7.5 Hz), 5.19 (s, 2H), 6.73 (s, 1H), 7.50 (s, 1).

reactant | 5-tert-butyl-1H-imidazole | 3.41 mmol, 423 mg | C(C)(C)(C)C1=CN=CN1 | C7H12N2
reactant | NaH | 3.31 mmol, 132 mg | [H-].[Na+]
reactant | SEMCl | 3.61 mmol, 639 uL | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 5-tert-Butyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 500 mg, 57% | C(C)(C)(C)C1=CN=CN1COCC[Si](C)(C)C | C13H26N2OSi
